US07271197B2
iii) N-[3-(4-hydroxybutyl)phenyl]urea
A solution of N-[3-(4-{[tert-butyl(dimethyl)silyl]oxy}butyl)phenyl]urea (5.67 g) in THF (50 ml) was treated with TFA (13.56 ml) and stirred at room temperature for 1 h. Further TFA (5 ml) was added and the reaction mixture stirred for a further 16 hours. The reaction mixture was concentrated in vacuo. The residue was co-evaporated with methanol and then suspended in methanol and heated at reflux for 20 h prior to concentration in vacuo. The residue was purified by chromatography (SPE, DCM-MeOH 9:1) to give the title compound. LCMS RT=2.14 min.

reactant | N-[3-(4-{[tert-butyl(dimethyl)silyl]oxy}butyl)phenyl]urea | 5.67 g | [Si](C)(C)(C(C)(C)C)OCCCCC=1C=C(C=CC1)NC(=O)N | C17H30N2O2Si
reactant | TFA | 13.56 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-[3-(4-hydroxybutyl)phenyl]urea | OCCCCC=1C=C(C=CC1)NC(=O)N | C11H16N2O2
